US09102671B2
To a suspension of ethyl 5-((2R,4S)-4-fluoro-2-(3-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxylate (X-1) (51 mg, 0.14 mmol) in THF:MeOH:H2O 3:2:1 (3 mL) was added LiOH (29 mg, 0.7 mmol). The reaction was heated to 50° C. for 48 hours then cooled to room temperature and neutralized to pH 6 with 1M NaOH. The mixture was reduced to dryness and purified by column chromatography on silica gel with DCM/MeOH gradient as eluant to yield 5-((2R,4S)-4-fluoro-2-(3-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxylic acid (X-3). 1H NMR (400 MHz, CDCl3) δ 8.26 (s, 1 H), 8.15 (d, J=7.6 Hz, 1 H), 7.36-7.29 (m, 1 H), 7.09-7.04 (m, 2 H), 7.00-6.92 (m, 2 H), 6.24 (dd, J=2.4, 7.6 Hz, 1 H), 5.41 (d, J=52.8 Hz, 1 H), 5.06 (t, J=8.4 Hz, 1 H), 4.29-3.92 (m, 2 H), 2.94-2.82 (m, 1 H), 2.24-2.05 (m, 1 H). MS m/z 344.1 (M+1)+.

reactant | ethyl 5-((2R,4S)-4-fluoro-2-(3-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxylate | 0.14 mmol, 51 mg | F[C@H]1C[C@@H](N(C1)C1=CC=2N(C=C1)N=CC2C(=O)OCC)C2=CC(=CC=C2)F | C20H19F2N3O2
reactant | LiOH | 0.7 mmol, 29 mg | [Li+].[OH-]
reactant | NaOH | 1M | [OH-].[Na+]
solvent | THF MeOH H2O | 3 mL | C1CCOC1.CO.O
product | 5-((2R,4S)-4-fluoro-2-(3-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxylic acid | F[C@H]1C[C@@H](N(C1)C1=CC=2N(C=C1)N=CC2C(=O)O)C2=CC(=CC=C2)F | C18H15F2N3O2
